US09301951B2
(S)—N1-methyl-N1-(3-morpholinopropyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
A solution of 3-((2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoic acid (150 mg, 0.26 mmol, 1.00 equiv) in dichloromethane (3 mL), N-methyl-3-morpholinopropan-1-amine (42 mg, 0.27 mmol, 1.00 equiv), EDC.HCl (75 mg, 0.39 mmol, 1.50 equiv), 4-dimethylaminopyridine (48 mg, 0.39 mmol, 1.50 equiv). The resulting solution was stirred for 2 h at 25° C. The resulting solution was diluted with 3 mL of water. The resulting solution was extracted with 2×5 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×5 mL of water and 2×5 mL of Brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (120 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (24% CH3CN up to 34% in 6 min); Detector, Waters2545 UvDector 254&220 nm. 97 mg product was obtained. This resulted in 97 mg (35%) of (S)—N1-methyl-N1-(3-morpholinopropyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide. Example 126 as a yellow solid. (ES, m/z): 715 [M+H]+(400 MHz, CD3OD, ppm): 8.91 (s, 1H), 8.73 (d, J=8.8 Hz, 1H), 8.41 (s, 1H), 8.14˜8.09 (m, 3H), 7.873˜7.857 (m, 1H), 7.753˜7.69 (m, 3H), 7.27 (d, J=7.2 Hz, 1H), 7.19˜7.13 (m, 3H), 5.40 (d, J=6.4 Hz, 1H), 4.18 (s, 2H), 3.90˜3.50 (m, 9H), 3.46˜3.17 (m, 5H), 3.07 (s, 3H), 2.89˜2.78 (s, 2H), 2.26˜2.03 (m, 8H), 1.98˜1.81 (m, 4H).

reactant | 3-((2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzoic acid | 0.26 mmol, 150 mg, 1.00 equiv | [C@@H]1(CCCC2=CC=CC=C12)NC(=O)C1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(C(=O)O)C=CC1 | C35H34N4O4
reactant | N-methyl-3-morpholinopropan-1-amine | 0.27 mmol, 42 mg, 1.00 equiv | CNCCCN1CCOCC1 | C8H18N2O
reactant | EDC.HCl | 0.39 mmol, 75 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.39 mmol, 48 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 3 mL | O | H2O
product | (S)—N1-methyl-N1-(3-morpholinopropyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 97 mg | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CCCN1CCOCC1 | C43H50N6O4
